US08071584B2
1-(5-Bromo-2-thienyl)-N,N-dimethylmethanamine
The above procedure to make 1-[(5-bromo-2-thienyl)methyl]pyrrolidine was repeated except using 2 M dimethylamine in methanol (0.75 mL, 1.5 mmol) to afford 204 mg (93%) of the title compound.

reactant | 1-[(5-bromo-2-thienyl)methyl]pyrrolidine | BrC1=CC=C(S1)CN1CCCC1 | C9H12BrNS
reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | methanol | 1.5 mmol, 0.75 mL | CO | CH4O
product | 1-(5-Bromo-2-thienyl)-N,N-dimethylmethanamine | 204 mg, 93% | BrC1=CC=C(S1)CN(C)C | C7H10BrNS
